US07026323B2
To a solution of 4-methoxy-2-carboxyquinoline (102 mg, 0.50 mmol) in CH2Cl2 (15 mL) was added triethylamine (0.33 mL, 2.36 mmol) and 1-hydroxybenzotriazole (HOBT) (80 mg, 0.60 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDCI) (110 mg, 0.60 mmol). After 5 minutes, 1-ethoxycarbonyl-4-(ethoxycarbonylmethyl)aminomethylcarbonylpiperazine (150 mg, 0.50 mmol) was added and the reaction mixture was stirred overnight. The reaction mixture was evaporated in vacuo to afford an oil, which was dissolved in ethyl acetate, and washed with saturated NaHCO3, 1M NaHSO4 and brine. The organic layer was evaporated in vacuo and the crude product was purified by flash column to afford 2-[(4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl](ethoxycarbonylmethyl)aminocarbonyl-4-methoxyquinoline (30 mg).

reactant | 4-methoxy-2-carboxyquinoline | 0.50 mmol, 102 mg | COC1=CC(=NC2=CC=CC=C12)C(=O)O | C11H9NO3
reactant | triethylamine | 2.36 mmol, 0.33 mL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 0.60 mmol, 80 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.60 mmol, 110 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-ethoxycarbonyl-4-(ethoxycarbonylmethyl)aminomethylcarbonylpiperazine | 0.50 mmol, 150 mg | C(C)OC(=O)N1CCN(CC1)C(=O)CNCC(=O)OCC | C13H23N3O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 2-[(4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl](ethoxycarbonylmethyl)aminocarbonyl-4-methoxyquinoline | 30 mg | C(C)OC(=O)N1CCN(CC1)C(=O)CC1=NC2=CC=CC=C2C(=C1C(=O)NCC(=O)OCC)OC | C24H30N4O7
